US06355653B1
c) 2-Pyrazol-1-yl-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine
The title compound, MS m/e (%):277 (M+,100), was prepared in accordance with the method of example 339b) from 2-methanesulfinyl-7-pyridin-3-yl—([1,2,4]triazolo[1,5-a]pyridin-5-ylamine and 1,8-diazabicyclo[5.4.0]undec-7-en in pyrazole at 75° C.

reactant | [1,2,4]triazolo[1,5-a]pyridin-5-ylamine | N=1C=NN2C1C=CC=C2N | C6H6N4
reactant | 1,8-diazabicyclo[5.4.0]undec-7-en | N12CCCCCC2=NCCC1 | C9H16N2
reactant | pyrazole | N1N=CC=C1 | C3H4N2
product | 2-Pyrazol-1-yl-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | N1(N=CC=C1)C1=NN2C(C=C(C=C2N)C=2C=NC=CC2)=N1 | C14H11N7
